US06335334B1
113.) 4-(5-Chloro-2-nitro-benzoylamino)-benzenesulfonyl fluoride
86.00 g (0.39 mol) of 5-chloro-2-nitro-benzoyl chloride was dissolved in 300 ml of toluene, a solution of 62.00 g (0.35 mol) of 4-aminobenzenesulfonyl fluoride was added dropwise, and the mixture was heated under reflux for 4 h. Subsequently it was cooled, concentrated in vacuo to half of its volume, cooled, and the precipitated solid was filtered off with suction. 121.60 g (86%) of the title compound having a melting point of 182-184° C. were obtained.

reactant | 5-chloro-2-nitro-benzoyl chloride | 0.39 mol, 86.00 g | ClC=1C=CC(=C(C(=O)Cl)C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | 4-aminobenzenesulfonyl fluoride | 0.35 mol, 62.00 g | NC1=CC=C(C=C1)S(=O)(=O)F | C6H6FNO2S
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(5-Chloro-2-nitro-benzoylamino)-benzenesulfonyl fluoride | ClC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)F)C1)[N+](=O)[O-] | C13H8ClFN2O5S
